.probe test with ac

V1 1 0 dc 0 ac 1
R1 1 2 1k 
R2 2 3 1k
R3 3 0 1k
C2 2 3 1u
C3 3 0 1u

.ac dec 5 10 10000

.probe i(R2) vd(R2) vd(R3) v(2)

.control
run
display
print vd_r2/i(r2)
plot mag(vd_r3)
.endc
.end
